US20010053785A1
(2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol, and (R)-(+)-3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 90-92° C.; MS m/e 679 (M−H+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C27H18Br2O2
reactant | (R)-(+)-3-phenyllactic acid methyl ester | COC([C@H](O)CC1=CC=CC=C1)=O | C10H12O3
product | (2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O[C@H](C(=O)O)CC1=CC=CC=C1)Br)C=CC=C2 | C36H26Br2O4
